US06469209B1
Preparation of Methyl E-2-((2-Methyl Phenyl)Oxymethyl)-6-Methylphenylglyoxylate O-Methyl Oxime (Formula 2).
o-Cresol (5.9 g, 0.542 mol) was added to a suspension solution of sodium hydride (95%, 2 g, 0.813 mol) in DMF (100 mL) at 0 ° C., the reaction mixture was stirred for 1 hour at room temperature. This above reaction solution was added dropwise to a solution of methyl E-2-bromomethyl-6-methylphenylglyoxylate O-methyl oxime (16.2 g, 0.542 mol) in DMF (100 mL) for 30 min at 0 ° C. After was stirred for 1 hour at room temperature, the reaction mixture was added water (200 mL) and extracted with ether (100 mL) three times. The combined organic layers were washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the crude product which was used in the next reaction without further purification.

reactant | o-Cresol | 0.542 mol, 5.9 g | C1(=CC=CC=C1O)C | C7H8O
reactant | sodium hydride | 0.813 mol, 2 g | [H-].[Na+]
reactant | methyl E-2-bromomethyl-6-methylphenylglyoxylate O-methyl oxime | 0.542 mol, 16.2 g | CO\N=C(\C(=O)OC)/C1=C(C=CC=C1C)CBr | C12H14BrNO3
reactant | water | 200 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Methyl E-2-((2-Methyl Phenyl)Oxymethyl)-6-Methylphenylglyoxylate O-Methyl Oxime | CO\N=C(\C(=O)OC)/C1=C(C=CC=C1C)COC1=C(C=CC=C1)C | C19H21NO4
